US06242494B1
N-(tert-Butoxycarbonyl)-L-alaninol (438 mg, 2.5 mmol) was dissolved in 5 mL of methylene chloride in an ice bath and acetyl chloride (0.294 mL, 3.75 mmol), followed by triethylamine (0.7 mL, 5 mmol) were added. It was then reacted at 0° C. for 1 hour and at room temperature for 2 days. The mixture was diluted with 25 mL of ethyl acetate and the organic layer was washed with 10%-sodium hydrogen carbonate (3x), brine (2x), dried over magnesium sulfate anhydrous, and then evaporated to dryness to yield 380 mg of N-(tert-butoxycarbonyl)-O-acetyl-L-alaninol.

reactant | N-(tert-Butoxycarbonyl)-L-alaninol | 2.5 mmol, 438 mg | C(C)(C)(C)OC(=O)N[C@@H](C)CO | C8H17NO3
reactant | acetyl chloride | 3.75 mmol, 0.294 mL | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 5 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | N-(tert-butoxycarbonyl)-O-acetyl-L-alaninol | 380 mg | C(C)(C)(C)OC(=O)N[C@@H](C)COC(C)=O | C10H19NO4
